US06703392B2
N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-4-hydroxy-3-methoxy-phenyl-acetamide:
prepared by reaction of 3,4-dimethoxyphenylethylamine and 4-hydroxy-3-methoxy-phenylacetic acid.

reactant | 3,4-dimethoxyphenylethylamine | COC=1C=C(C=CC1OC)CCN | C10H15NO2
reactant | 4-hydroxy-3-methoxy-phenylacetic acid | OC1=C(C=C(C=C1)CC(=O)O)OC | C9H10O4
product | N-[2-(3,4-Dimethoxy-phenyl)-ethyl]-4-hydroxy-3-methoxy-phenyl-acetamide | COC=1C=C(C=CC1OC)CCNC(CC1=CC(=C(C=C1)O)OC)=O | C19H23NO5
